US09376443B2
2-(1-Hydroxy-1-cyclobutyl)pyridine
Prepared from 2-bromopyridine and cyclobutanone by the method described in Example 10 to give the title compound (7.62 g, quantitative) as an orange oil; NMR δH (400 MHz, DMSO) 8.54 (1H, m), 7.75 (1H, td, J 7.6, 1.7 Hz), 7.59 (1H, m), 7.22 (1H, m), 5.70 (1H, s), 2.58 (2H, m), 2.23 (2H, m), 1.91 (2H, m); (M+H)+ 151.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 2-(1-Hydroxy-1-cyclobutyl)pyridine | 7.62 g | OC1(CCC1)C1=NC=CC=C1 | C9H11NO
